US07544697B2
4-Phthalimido-2-butanone was obtained from the literature procedure, Eriks et al, J. Med. Chem., 1992, 35, 3239-3246. Sodium tert-butoxide (20.75 g, 0.216 mol) was added over a period of 12 minutes to ethanol (160 mL) under a nitrogen atmosphere. When all solids had dissolved, diethyl oxalate (31.55 g, 0.216 mol) and a suspension of 4-phthalimido-2-butanone (46.9 g, 0.216 mol) were sequentially added. The reaction was stirred at ambient temperature for 2.5 hours. A precipitate was present and was isolated by filtration to provide 37.4 g of ethyl 2,4-dioxo-6-phthalimidohexanoate, sodium salt as a light orange solid.

reactant | Sodium tert-butoxide | 0.216 mol, 20.75 g | CC(C)([O-])C.[Na+]
reactant | diethyl oxalate | 0.216 mol, 31.55 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 4-phthalimido-2-butanone | 0.216 mol, 46.9 g | C1(C=2C(C(N1CCC(C)=O)=O)=CC=CC2)=O | C12H11NO3
reactant | sodium | [Na] | Na
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | ethyl 2,4-dioxo-6-phthalimidohexanoate | 37.4 g | O=C(C(=O)OCC)CC(CCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C16H15NO6
